US06080773
To a stirred suspension of 3.58 g of 2-(3-cyanobenzyl)benzaldehyde and 10.4 g of anhydrous magnesium sulfate was added 3.6 ml of diphenylmethanamine, and the stirring continued overnight. The reaction was filtered through dicalite and the filtrate evaporated to give an oil that crystallised on addition of diethyl ether and cooling to 4° C., to give 4.11 g of N-[2-(3-cyanobenzyl)benzylidene]-1,1-diphenylmethanamine, melting at 113-115° C. A stirred solution of 1.0 g of N-[2-(3-cyanobenzyl)benzylidene]-1,1-diphenylmethanamine in 15 ml of tetrahydrofuran was cooled to -78° C. and 6.7 ml of a 1 M solution of potassium tert-butoxide in tetrahydrofuran was added dropwise. The purple coloured solution was stirred for 20 min then 0.9 ml of propargyl bromide was added rapidly and the reaction allowed to slowly warm to room temperature. The reaction mixture was diluted with 25 ml of saturated aqueous ammonium chloride and extracted into dichloromethane. The combined organic extracts were dried over sodium sulfate the evaporated to give crude N-(diphenylmethylidene)-2-(3-cyanobenzyl)-a-2-propynyl-benzenemethanamine which was not characterised due to instability. The crude product was dissolved in 20 ml of acetone and 5 ml of 1 M hydrochloric acid added. The solution was stirred at room temperature for 3 h then cooled to 4° C. overnight. The acetone was removed by evaporation and the crude product redissolved in 20 ml of dichloromethane. The solution was extracted with two 20 ml portions of 2N hydrochloric acid. The combined acid extracts were washed with 10 ml of dichloromethane and then basified with 4N sodium hydroxide solution. The basic extracts were combined and re-extracted with three 20 ml portions of dichloromethane, the combined organic extracts were dried over sodium sulfate and evaporated to give 120 mg of product. The product was dissolved in 1 ml of methanol and 57 mg of fumaric acid was added. The product was crystallised by trituation with ether and cooling to 4° C. to yield 120 mg of 2-(3-cyanobenzyl)-a-2-propynyl-benzenemethanamine (E)-butenedioate, melting at 182-184° C.

reactant | N-[2-(3-cyanobenzyl)benzylidene]-1,1-diphenylmethanamine | 1.0 g | C(#N)C=1C=C(CC2=C(C=NC(C3=CC=CC=C3)C3=CC=CC=C3)C=CC=C2)C=CC1 | C28H22N2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | propargyl bromide | 0.9 ml | C(C#C)Br | C3H3Br
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | 25 ml | [Cl-].[NH4+]
product | N-(diphenylmethylidene)-2-(3-cyanobenzyl)-a-2-propynyl-benzenemethanamine | C1(=CC=CC=C1)C(=NC(C1=C(C=CC=C1)CC1=CC(=CC=C1)C#N)CC#C)C1=CC=CC=C1 | C31H24N2
